US04237160
3-Hydroxymethyl-8-nitro-dibenzo[b,f]thiepin-5-oxide
Repeat the process of Example 2, substituting an equivalent quantity of 3-hydroxymethyl-8-nitro-dibenzo[b,f]thiepin for the 3-hydroxymethyl-10,11-dihydrodibenzo[b,f]thiepin, to obtain the title product.

reactant | 3-hydroxymethyl-8-nitro-dibenzo[b,f]thiepin | OCC=1C=CC2=C(SC3=C(C=C2)C=C(C=C3)[N+](=O)[O-])C1 | C15H11NO3S
reactant | 3-hydroxymethyl-10,11-dihydrodibenzo[b,f]thiepin | OCC=1C=CC2=C(SC3=C(CC2)C=CC=C3)C1 | C15H14OS
product | 3-Hydroxymethyl-8-nitro-dibenzo[b,f]thiepin-5-oxide | OCC=1C=CC2=C(S(C3=C(C=C2)C=C(C=C3)[N+](=O)[O-])=O)C1 | C15H11NO4S
